US08071584B2
3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(3-furanyl)-1H-indole-7-carboxamide
5-Bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (80 mg, 0.20 mmol) was placed in a microwave vial and dissolved with 1,4-dioxane (2 mL) and water (1 ml). 3-Furanylboronic acid (44.8 mg, 0.401 mmol) and K2CO3 (83 mg, 0.60 mmol) were added. Argon was bubbled in the mixture for 10 min with stirring. PdCl2(dppf) (4.83 mg, 0.01 mmol) was added, and argon was bubbled another 10 min. The vial is sealed and heated in a microwave for 5 min at 100° C. on high absorption. The reaction was evaporated to remove most of the dioxane. The residue was partitioned between ethyl acetate and water. The layers were separated, the organic layer was dried (MgSO4), and the solvent was removed under vacuum. The residue was dissolved in the minimum amount of MeOH and EtOAc, and was run through a thiol-SPE cartridge eluting with 2 mL of MeOH. The solvent was removed under vacuum, and the residue was dissolved in 1-2 mL of DMSO, and purified on a Gilson HPLC. The desired fractions were concentrated, giving 22 mg (26%) of the title compound.

reactant | 5-Bromo-3-(2,2-dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 0.20 mmol, 80 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CC(S(CC1)(=O)=O)(C)C | C16H19BrN2O3S
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
reactant | 3-Furanylboronic acid | 0.401 mmol, 44.8 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | K2CO3 | 0.60 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) | 0.01 mmol, 4.83 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1 ml | O | H2O
product | 3-(2,2-Dimethyl-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-5-(3-furanyl)-1H-indole-7-carboxamide | 22 mg, 26% | CC1(S(CCC(C1)C1=CNC2=C(C=C(C=C12)C1=COC=C1)C(=O)N)(=O)=O)C | C20H22N2O4S
